US08278341B2
2,10-difluoro-6-methoxy-12-(pyrrolidin-1-yl)-5,7-dihydroindolo[2,3-b]carbazole
The title compound was prepared by the reaction tert-butyl 12-bromo-2,10-difluoro-6-methoxyindolo[2,3-b]carbazole-5(7H)-carboxylate with pyrrolidine in the presence of Pd(OAc)2, BINAP, and NaOtBu at 80° C. for 2 h, followed deprotection with TFA. 1H NMR (400 MHz, DMSO-d6) δ ppm 11.29 (s, 2H), 7.70 (dd, J=10.0, 2.4 Hz, 2H), 7.43 (dd, J=8.8, 4.8 Hz, 2H), 7.19 (td, J=9.2, 2.4 Hz, 2H), 4.05 (s, 3H), 3.43-3.55 (m, 4H), 2.40-2.30 (m, 4H).

reactant | tert-butyl 12-bromo-2,10-difluoro-6-methoxyindolo[2,3-b]carbazole-5(7H)-carboxylate | BrC1=C2C(=C(C=3N(C4=CC=C(C=C4C13)F)C(=O)OC(C)(C)C)OC)NC=1C=CC(=CC12)F | C24H19BrF2N2O3
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | BINAP | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOtBu | CC(C)(C)[O-].[Na+]
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
catalyst | Pd(OAc)2 | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2,10-difluoro-6-methoxy-12-(pyrrolidin-1-yl)-5,7-dihydroindolo[2,3-b]carbazole | FC=1C=C2C=3C(=C4C(=C(C3NC2=CC1)OC)NC=1C=CC(=CC14)F)N1CCCC1 | C23H19F2N3O
